US08217043B2
a) (2,4-Difluoro-benzyl)-pyrrol-1-yl-carbamic acid tert-butyl ester
Prepared according to the benzylation condition used in Example 1 step b) from pyrrol-1-yl-carbamic acid tert-butyl ester (1.0 eq.), 2,4-difluorobenzyl bromide (1.03 eq.) and sodium hydride (1.3 eq.). ESI (m/z): 309 (M+H)+.

reactant | pyrrol-1-yl-carbamic acid tert-butyl ester | 1.0 eq. | C(C)(C)(C)OC(NN1C=CC=C1)=O | C9H14N2O2
reactant | 2,4-difluorobenzyl bromide | 1.03 eq. | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
reactant | sodium hydride | 1.3 eq. | [H-].[Na+]
product | (2,4-Difluoro-benzyl)-pyrrol-1-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(N1C=CC=C1)CC1=C(C=C(C=C1)F)F)=O | C16H18F2N2O2
